US08389743B2
N-{2-fluoro-4-[1-hydroxy-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-pyrrolidine
A 2-L 3-neck RB flask, equipped a mechanical stirrer, addition funnel and nitrogen gas inlet was charged with Intermediate 9, 3-[3-fluoro-4-(pyrrolidin-1-ylmethyl)phenyl]-3-hydroxycyclobutanecarboxylic acid (0.135 mol, crude material from the above intermediate), 500 mL of anhydrous THF and DIEA (34.8 g, 0.27 mol). The initially insoluble mixture was stirred for 1.5 h until a uniform suspension formed. Then 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide (50% solution in EtOAc, 104.5 mL, 0.164 mol) was added and stirred for 5 min. (NOTE: exotherm was observed, reached ˜45-50° C.). Then pyrrolidine (28.2 mL, 24.0 g, 0.337 mol) was added. (NOTE: more exotherm was observed, reached ˜70-80° C.). The mixture was stirring at RT for 12 h, then evaporated. The residue was mixed with 500 mL of sat. Na2CO3 and 200 mL of water. The mixture was extracted with DCM (5×300 mL), the extract was dried over Na2SO4, evaporated and dried to give 33.4 g (71% for two steps) of pure title compound (LCMS (M+H): 347.1. 1H NMR (300 MHz, CDCl3): δ 7.37 (t, J=7.37 Hz, 1H), 7.17-7.26 (m, 2H), 3.68 (s, 2H), 3.53 (t, J=6.78 Hz, 2H), 3.44 (t, J=6.58 Hz, 2H), 3.03-3.14 (m, 1H), 2.79-2.87 (m, 2H), 2.5-2.6 (m, 6H), 1.87-2.00 (m, 4H), 1.75-1.80 (m, 4H).

reactant | 3-[3-fluoro-4-(pyrrolidin-1-ylmethyl)phenyl]-3-hydroxycyclobutanecarboxylic acid | FC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20FNO3
reactant | DIEA | 0.27 mol, 34.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide | 0.164 mol, 104.5 mL | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
reactant | pyrrolidine | 0.337 mol, 28.2 mL, 24.0 g | N1CCCC1 | C4H9N
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N-{2-fluoro-4-[1-hydroxy-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-pyrrolidine | FC1=C(CN2CCCC2)C=CC(=C1)C1(CC(C1)C(=O)N1CCCC1)O | C20H27FN2O2
